US04477326
Benzoin methyl ether (50 g) and t-butanol (500 g) were added to a 1 liter, 3neck, round bottom flask equipped with magnetic stirrer, and placed in an oil bath at 80° C. To this mixture, 33.7 g of potassium t-butoxide was added and the solution stirred for 15 minutes. Allyl Bromide (42.3 g) was added dropwise over a 1 hour period and stirring was continued at 85° C. for 2 more hours then cooled to room temperature. After evaporation of t-butanol and filtration of potassium bromide, the product was distilled at 125° C.±2° C. and 0.05 mgHg to yield 49.2 g of allylbenzoin methyl ether which crystallized upon cooling.

reactant | Benzoin methyl ether | 50 g | COC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C15H14O2
reactant | potassium t-butoxide | 33.7 g | CC(C)([O-])C.[K+]
reactant | Allyl Bromide | 42.3 g | C(C=C)Br | C3H5Br
solvent | t-butanol | 500 g | C(C)(C)(C)O | C4H10O
product | allylbenzoin methyl ether | 49.2 g | COC(C(C1=C(C=CC=C1)CC=C)=O)C1=CC=CC=C1 | C18H18O2
